US06617326B2
To a solution of 2-bromo-1-fluoro-4-nitrobenzene (A. Groweiss, Org. Process Res. Dev., 2000, 4, 30-33) in tetrahydrofuran (75 ml) and ethanol (75 ml) was added tin(II) chloride dihydrate and the mixture left to stir at ambient temperature for 4 h. The solvent was evaporated and the residue was treated with ice-cold 2 N sodium hydroxide solution (200 ml). The resulting slurry was stirred for 30 min then extracted with dichloromethane (3×200 ml). The combined organic phase was washed with water (200 ml) and brine (200 ml), dried (MgSO4), filtered and evaporated to give 3-bromo-4-fluorophenylamine (7.92 g, 92%) as a yellow oil: 1H NMR (360 MHz, CDCl3) δ 3.53 (2H, s), 6.53-6.57 (1H, m), 6.83-6.85 (1H, m), 6.90 (1H, dd, J 9, 9 Hz).

reactant | 2-bromo-1-fluoro-4-nitrobenzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | ethanol | 75 ml | C(C)O | C2H6O
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3-bromo-4-fluorophenylamine | 7.92 g, 92% | BrC=1C=C(C=CC1F)N | C6H5BrFN
